US07323455B2
To a solution of furan (13 g, 190 mmol) in anhydrous THF (150 mL) was added n-butyllithium (2.5 M in hexane, 40 mL, 100 mmol) at 0° C. under nitrogen. The solution was stirred at 0° C. for 30 minutes, cooled to −78° C., and treated with a solution of 1-(2-amino-5-bromophenyl)-2,2,3,3,3-pentafluoropropan-1-one. The mixture was allowed to warm to −30° C., a saturated ammonium chloride solution (100 mL) was added and mixture was warmed to rt. Ethyl acetate (300 mL) was added and organic layer separated, dried (MgSO4), and concentrated. The residue was dissolved in anhydrous THF. The resultant solution was cooled to 0° C., treated with triethylamine followed by addition of chloroacetyl chloride following the procedure described in example 1 to give N-{4-bromo-2-[2,2,3,3,3-pentafluoro-1-(2-furyl)-1-hydroxypropyl]phenyl}-2-chloroacetamide as a white solid. 1H NMR (DMSO-d6): δ 10.54 (s, 1H), 9.11 (s, 1H), 8.18 (d, J=9.0 Hz, 1H), 7.79 (m, 1H), 7.64 (dd, J=8.8, 2.4 Hz, 1H), 7.21 (d, J=1.7 Hz, 1H), 6.71 (s, 1H), 6.58 (m, 1H), 4.35 (d, J=1.5 Hz, 2H). MS (ESI) m/z 462/464 ([M+H]+); MS (ESI) m/z 460/462 ([M−H]−).

reactant | furan | 190 mmol, 13 g | O1C=CC=C1 | C4H4O
reactant | n-butyllithium | 100 mmol, 2.5 M, 40 mL | C(CCC)[Li]
reactant | 1-(2-amino-5-bromophenyl)-2,2,3,3,3-pentafluoropropan-1-one | NC1=C(C=C(C=C1)Br)C(C(C(F)(F)F)(F)F)=O | C9H5BrF5NO
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-{4-bromo-2-[2,2,3,3,3-pentafluoro-1-(2-furyl)-1-hydroxypropyl]phenyl}-2-chloroacetamide | BrC1=CC(=C(C=C1)NC(CCl)=O)C(C(C(F)(F)F)(F)F)(O)C=1OC=CC1 | C15H10BrClF5NO3
